US08648086B2
1-(t-Butyloxycarbonyl)-3-chloromethyl-7-azaindole (Int-14)
A mixture of 1-(tert-butyloxycarbonyl)-3-(hydroxymethyl)-7-azaindole (Int-17, 8.4 g, 34 mmol), triphenylphosphine (9.9 g, 37 mmol), dry CCl4 (50 mL) in dry DMF (35 mL) were stirred at room temperature for 48 h. Solvents were removed and the residue was purified by flash column chromatography to give chloride Int-14 (3.45 g, 38%).

reactant | 1-(tert-butyloxycarbonyl)-3-(hydroxymethyl)-7-azaindole | 34 mmol, 8.4 g | C(C)(C)(C)OC(=O)N1C=C(C2=CC=CN=C12)CO | C13H16N2O3
reactant | triphenylphosphine | 37 mmol, 9.9 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | CCl4 | 50 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | DMF | 35 mL | CN(C)C=O | C3H7NO
product | 1-(t-Butyloxycarbonyl)-3-chloromethyl-7-azaindole | C(C)(C)(C)OC(=O)N1C=C(C2=CC=CN=C12)CCl | C13H15ClN2O2
